US05912353
Synthesis of 2-trifluoroacetylimino-5-ethyl-3-(2'-cyanobiphenyl-4-yl)methyl-1,3,4-thiadiazoline
To a suspension of 124.1 g of sodium hydride (55% dispersion in oil) in 1.5 liters of N,N-dimethylformamide was added 533.7 g of 2-trifluoroacetamido-5-ethyl-1,3,4-thiadiazole on ice. After the evolution of hydrogen subsided, a solution of 643.6 g of 4'-bromomethyl-2-cyanobiphenyl in 3 liters of N,N-dimethylformamide was added dropwise. The resulting mixture was stirred at room temperature for one hour and then at 80° C. for 5 hours, followed by concentration under reduced pressure. Water and ethyl acetate were added to the concentrate. The organic layer was then washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with a 3:1 mixture of hexane and ethyl acetate. Crude crystals were recrystallized from ethanol, whereby 490.8 g of the title compound was obtained.

reactant | sodium hydride | 124.1 g | [H-].[Na+]
reactant | 2-trifluoroacetamido-5-ethyl-1,3,4-thiadiazole | 533.7 g | FC(C(=O)NC=1SC(=NN1)CC)(F)F | C6H6F3N3OS
reactant | hydrogen | [H][H] | H2
reactant | 4'-bromomethyl-2-cyanobiphenyl | 643.6 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
solvent | N,N-dimethylformamide | 1.5 liters | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 liters | CN(C=O)C | C3H7NO
product | 2-trifluoroacetylimino-5-ethyl-3-(2'-cyanobiphenyl-4-yl)methyl-1,3,4-thiadiazoline | 490.8 g | FC(C(=O)N=C1SC(=NN1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)CC)(F)F | C20H15F3N4OS
